US07452886B2
N-{4-[2-Cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-phenyl}-succinamic acid
To a solution of 6-(4-amino-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile (0.626 mmol) in THF (3 ml), succinic anhydride (0.626 mmol) is added. The reaction mixture is stirred at room temperature for 16 h. The reaction mixture is concentrated under vacuum. Purification of the residue by silica gel column chromatography affords the title compound in quantitative yield.

reactant | 6-(4-amino-benzyl)-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidine-2-carbonitrile | 0.626 mmol | NC1=CC=C(CC2=CC3=C(N=C(N=C3)C#N)N2CC(C)(C)C)C=C1 | C19H21N5
reactant | succinic anhydride | 0.626 mmol | C1(CCC(=O)O1)=O | C4H4O3
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | N-{4-[2-Cyano-7-(2,2-dimethyl-propyl)-7H-pyrrolo[2,3-d]pyrimidin-6-ylmethyl]-phenyl}-succinamic acid | quantitative yield | C(#N)C=1N=CC2=C(N1)N(C(=C2)CC2=CC=C(C=C2)NC(CCC(=O)O)=O)CC(C)(C)C | C23H25N5O3
